US04063925
1-Methyl-3-n-propyl-4-(2-chlorobenzoyl)-5-hydroxypyrazole
1.4 g. of 1-methyl-3-n-propyl-5-pyrazolone is dissolved in 10 ml. of dioxane with heating and then 1.5 g. of calcium hydroxide is added to the resulting solution. 1.75 g. of 2-chlorobenzoyl chloride is added dropwise with stirring at 50° C. After completion of the dropwise addition, the mixture is heated under reflux for 1 hour. After completion of the reaction, the reaction mixture is allowed to cool and 100 ml. of a 2N hydrochloric acid solution is added thereto. The mixture is extracted with 70 ml. of chloroform and an organic layer is separated. The layer is washed with water, dried over anhydrous sodium sulfate and the solvent is distilled off from the layer to give 2 g. of brown oily residue. The residue thus obtained is dissolved in a small amount of benzene and adsorbed on a silica gel column, which is then eluted with benzene: ethanol (50:1) to give 0.6 g. of crystals. The crystals are recrystallized from methanol-water (7:3) to give 0.25 g. of the desired product as colorless columns having a melting point of 125°-126° C. Yield 9.2%

reactant | 1-methyl-3-n-propyl-5-pyrazolone | CN1NC(=CC1=O)CCC | C7H12N2O
reactant | calcium hydroxide | [OH-].[Ca+2].[OH-]
reactant | 2-chlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-Methyl-3-n-propyl-4-(2-chlorobenzoyl)-5-hydroxypyrazole | Yield 9.2% | CN1N=C(C(=C1O)C(C1=C(C=CC=C1)Cl)=O)CCC | C14H15ClN2O2
